US06809199B2
Step A: tert-Butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl]amino}piperidine-1-carboxylate
The title compound was prepared from 50 mg of 7-bromo-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one (COMPOUND HHH2) and 63 mg of tert-butyl 4-aminopiperidine-1-carboxylate by a procedure analogous to that described in COMPOUND HHH4. Mass spectrum (ESI) 599 (M+1).

reactant | 7-bromo-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one | 50 mg | BrC1=NC(=C2C=CC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=CC=C1)Cl | C20H10BrCl3N2O
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 63 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
product | tert-Butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl]amino}piperidine-1-carboxylate | ClC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC(=N1)NC1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1Cl)Cl)=O | C30H29Cl3N4O3
